US05703096
40(a) N-[2-(Tetrahydropyran-2-yloxy)ethoxy]phthalimide
A suspension of 10.8 g of 2-(2-bromoethoxy) tetrahydropyran, 7.0 g of N-hydroxyphthalimide and 11.1 g of potassium carbonate in 100 ml of dimethylformamide was stirred at 80° C. for 2.5 hours. Ethyl acetate and water were then added to the reaction mixture to make a solution. The ethyl acetate layer was then separated and dried over anhydrous magnesium sulfate. The solvent was then removed by distillation under reduced pressure, after which the resulting residue was purified by column chromatography through silica gel, using a 2:1 by volume mixture of hexane and ethyl acetate as the eluent, to give 8.62 g of the title compound as a syrup.

reactant | 2-(2-bromoethoxy) tetrahydropyran | 10.8 g | BrCCOC1OCCCC1 | C7H13BrO2
reactant | N-hydroxyphthalimide | 7.0 g | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | potassium carbonate | 11.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | N-[2-(Tetrahydropyran-2-yloxy)ethoxy]phthalimide | 8.62 g | O1C(CCCC1)OCCON1C(C=2C(C1=O)=CC=CC2)=O | C15H17NO5
